US07262212B2
4-Fluorobenzyl alcohol (3.00 g, 23.8 mmol) was dissolved in THF (60 ml), to which 1,1′-carbonyldiimidazole (4.05 g, 25.0 mmol) was added while cooling in an ice-bath, and the mixture was stirred for 30 minutes. 2-Methallylamine hydrochloride (2.81 g, 26.2 mmol) and triethylamine (3.98 g, 28.5 mmol) were added to the mixture, which was stirred for 2 hours. After the reaction mixture was concentrated under reduced pressure, water were added to the residue, and the mixture was extracted with methylene chloride twice. The extracts were combined, dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=10/1) to afford 4-fluorobenzyl N-(2-methyl-2-propenyl)carbamate (4.69 g, yield 88%) as a colorless oil.

reactant | 4-Fluorobenzyl alcohol | 23.8 mmol, 3.00 g | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | 1,1′-carbonyldiimidazole | 25.0 mmol, 4.05 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 28.5 mmol, 3.98 g | C(C)N(CC)CC | C6H15N
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-fluorobenzyl N-(2-methyl-2-propenyl)carbamate | 4.69 g, yield 88% | CC(CNC(OCC1=CC=C(C=C1)F)=O)=C | C12H14FNO2
